US20010018525A1
step 1 N-(3-Phenylpropyl)-3,5-bis(m-chlorophenyl)-4-(2-hydroxyethoxy)-benzamide
To a flamed dried round bottom flask with 3-phenyl-1-propylamine (0.404 mL, 2.84 mmol) and THF (5 mL) cooled to −78 °C. was added n-BuLi (1.14 mL, 2.5 M in hexane, 2.84 mmol) dropwise over a 5 min. period. The resulting solution was stirred at this temperature for 0.5 h, warmed to 0 °C. for 10 min., and then cooled back to −40 °C. This lithiated amine solution was added dropwise to a solution (at −40 °C.) of 3,5-bis-(m-chlorophenyl)-4-(2-hydroxyethoxy)benzoic acid ethyl ester (0.350 g, 0.811 mmol) in THF (15 mL) over 5 min. The final mixture was stirred at −40 °C. for 15 min. and then warmed to room temperature for 15 min. At this point, the reaction mixture was quenched with H2O (20 mL) and diluted with EtOAc (200 mL). The organic layer was washed with 1 N HCl (20 mL), sat. aq. NaHCO3 (20 mL), and brine (20 mL) and then dried (MgSO4). After concentration, the residue was purified by the Biotage Flash 40 apparatus (20 to 40% EtOAc/hexane gradient) to afford the product (0.347 g, 82%) as a solid; 1H NMR (CDCl3) δ1.44-1.68 (bs, 1H), 2.01 (t, J=7.0 Hz, 2H), 2.74 (t, J=7.7 Hz, 2H), 3.27-3.46 (m, 4H), 3.53 (dd, J=7.7, 14.7 Hz, 2H), 5.94-6.08 (bs, 1H), 7.02-7.13 (m, 1H), 7.13-7.33 (m, 4H), 7.33-7.46 (m, 4H), 7.46-7.54 (m, 2H), 7.61 (s, 4H); mass spectrum [(+) APCI], m/z 520/522 (M+H)+.

reactant | 3-phenyl-1-propylamine | 2.84 mmol, 0.404 mL | C1(=CC=CC=C1)CCCN | C9H13N
reactant | n-BuLi | 2.84 mmol, 2.5 M, 1.14 mL | [Li]CCCC
reactant | 3,5-bis-(m-chlorophenyl)-4-(2-hydroxyethoxy)benzoic acid ethyl ester | 0.811 mmol, 0.350 g | C(C)OC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)Cl)OCCO)C1=CC(=CC=C1)Cl)=O | C23H20Cl2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(3-Phenylpropyl)-3,5-bis(m-chlorophenyl)-4-(2-hydroxyethoxy)-benzamide | 0.347 g, 82% | C1(=CC=CC=C1)CCCNC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)Cl)OCCO)C1=CC(=CC=C1)Cl)=O | C30H27Cl2NO3
